US08530504B2
3-[4-Ethoxy-2,6-dimethoxyphenyl]-6-methoxy-N-propyl-N-(tetrahydro-2H-pyran-4-yl)pyrazolo[5,1-b][1,3]thiazole-7-amine
To a DMF (2.97 ml) solution of tert-butyl[3-(4-hydroxy-2,6-dimethoxyphenyl)-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl]carbamate (150 mg, 0.356 mmol) were added potassium carbonate (78.7 mg, 0.570 mmol) and iodoethane (45.6 μl, 0.570 mmol), and the mixture was stirred at room temperature for 16 hours and 10 minutes. Water was added to the reaction mixture, and the mixture was extracted with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was dissolved in DMF (1.88 ml), and sodium hydride (50% oil dispersion: 20.8 mg, 0.434 mmol) and 1-iodopropane (42.3 μl, 0.434 mmol) were added thereto, and the mixture was stirred at room temperature for 20 minutes. Ice was added to the reaction mixture, and the reaction mixture was extracted with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was dissolved in a mixture of dichloromethane (4.69 ml) and trifluoroacetic acid (1.87 ml), and the reaction mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in a mixture of tetrahydrofuran (11.7 ml) and acetic acid (1.17 ml), tetrahydro-4H-pyran-4-one (61.5 μl, 0.670 mmol) and sodium triacetoxyborohydride (142 mg, 0.670 mmol) were added, and the mixture was stirred at mom temperature for 11 hours and 30 minutes. The reaction mixture was concentrated under reduced pressure, a saturated aqueous solution of sodium hydrogencarbonate was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was concentrated under reduced pressure, and the residue was purified by medium pressure silica gel column chromatography (n-heptane/ethyl acetate: 10% then 50%) to obtain the title compound (101 mg, 0.212 mmol).

reactant | tert-butyl[3-(4-hydroxy-2,6-dimethoxyphenyl)-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl]carbamate | 0.356 mmol, 150 mg | C(C)(C)(C)OC(NC=1C(=NN2C1SC=C2C2=C(C=C(C=C2OC)O)OC)OC)=O | C19H23N3O6S
reactant | potassium carbonate | 0.570 mmol, 78.7 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 0.570 mmol, 45.6 μl | ICC | C2H5I
reactant | sodium hydride | 0.434 mmol, 20.8 mg | [H-].[Na+]
reactant | 1-iodopropane | 0.434 mmol, 42.3 μl | ICCC | C3H7I
reactant | tetrahydro-4H-pyran-4-one | 0.670 mmol, 61.5 μl | O1CCC(CC1)=O | C5H8O2
reactant | sodium triacetoxyborohydride | 0.670 mmol, 142 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 11.7 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 1.17 ml | C(C)(=O)O | C2H4O2
solvent | Water | O | H2O
solvent | DMF | 2.97 ml | CN(C)C=O | C3H7NO
product | 3-[4-Ethoxy-2,6-dimethoxyphenyl]-6-methoxy-N-propyl-N-(tetrahydro-2H-pyran-4-yl)pyrazolo[5,1-b][1,3]thiazole-7-amine | 0.212 mmol, 101 mg | C(C)OC1=CC(=C(C(=C1)OC)C=1N2C(SC1)=C(C(=N2)OC)N(C2CCOCC2)CCC)OC | C24H33N3O5S
